US06258812B1
77.1 ) 1-(4-Chloroanilino)phthalazine
30 g (149 mmol) 1-chlorophthalazine (prepared from phthalazone in the manner described under Example 67A.1) and 20 g (157 mmol) 4-chloroaniline are heated in 630 ml n-butanol for 30 min to 65° C. The crude product is filtered off, washed with ether, taken up in 2 l dichloromethane/methanol 9:1, and washed with sat. NaHCO3 solution and brine. The aqueous phases are extracted three times with dichloromethane/methanol 9:1, the organic phases dried (Na2SO4), and evaporated to a residual volume of −50 ml, leading to crystallization of the title compound: m.p.: 211° C.; Anal. calc. (C14H10N3Cl) C 65.76%, H 3.94%, N 16.43%, Cl 13.86%; found C 66.02%, H 3.92%, N 16.53%, Cl 13.51%.

reactant | 1-chlorophthalazine | 149 mmol, 30 g | ClC1=NN=CC2=CC=CC=C12 | C8H5ClN2
reactant | phthalazone | C1=CC=C2C(=C1)C=NNC2=O | C8H6N2O
reactant | 4-chloroaniline | 157 mmol, 20 g | ClC1=CC=C(N)C=C1 | C6H6ClN
solvent | n-butanol | 630 ml | C(CCC)O | C4H10O
product | 1-(4-Chloroanilino)phthalazine | ClC1=CC=C(NC2=NN=CC3=CC=CC=C23)C=C1 | C14H10ClN3
